US05780669
158 g of methyl 2-tert-butoxycarbonyl-1-chloro-1-cyclopropanecarboxylate was dissolved in 350 ml of dichloromethane. Then 160 ml of trifluoroacetic acid was added thereto and the obtained mixture was stirred at room temperature for 6 hours. The reaction mixture was concentrated under reduced pressure and n-hexane was added to the residue. The crystals thus formed were collected by filtration and washed with n-hexane. Thus 116 g (yield 97%) of 2-chloro-2-methoxycarbonyl-1-cyclopropanecarboxylic acid was obtained as colorless crystals.

reactant | methyl 2-tert-butoxycarbonyl-1-chloro-1-cyclopropanecarboxylate | 158 g | C(C)(C)(C)OC(=O)C1C(C1)(C(=O)OC)Cl | C10H15ClO4
reactant | trifluoroacetic acid | 160 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 2-chloro-2-methoxycarbonyl-1-cyclopropanecarboxylic acid | 116 g, yield 97% | ClC1(C(C1)C(=O)O)C(=O)OC | C6H7ClO4
